US09353108B2
C) (2-Cyclopropyl-5-ethoxy-4′-fluorobiphenyl-4-yl)methanol
A mixture of methyl 2-bromo-5-ethoxy-4′-fluorobiphenyl-4-carboxylate (7.62 g), cyclopropylboronic acid (5.56 g), dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine (1.33 g), a 2 M aqueous sodium carbonate solution (32.4 mL), tris(dibenzylideneacetone)dipalladium(0) (1.38 g), and toluene (50 mL) was stirred at 100° C. for 2 hours in an argon atmosphere. The reaction mixture was allowed to cool to room temperature, and then, water was added thereto. The reaction mixture was washed with saturated saline and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. A THF (50 mL) solution of the obtained residue was added to a THF (50 mL) suspension of lithium aluminum hydride (0.819 g) under ice cooling. After stirring at the same temperature as above for 30 minutes, water (1 mL) and a 15% aqueous sodium hydroxide solution (1 mL) were added thereto, and the mixture was stirred for 5 minutes. Water (3 mL) was further added to the reaction mixture, and the mixture was stirred for 30 minutes and then filtered. The filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (5.65 g).

reactant | methyl 2-bromo-5-ethoxy-4′-fluorobiphenyl-4-carboxylate | 7.62 g | BrC1=C(C=C(C(=C1)C(=O)OC)OCC)C1=CC=C(C=C1)F | C16H14BrFO3
reactant | cyclopropylboronic acid | 5.56 g | C1(CC1)B(O)O | C3H7BO2
reactant | dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine | 1.33 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | sodium carbonate | 2 M, 32.4 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 1.38 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | (2-Cyclopropyl-5-ethoxy-4′-fluorobiphenyl-4-yl)methanol | 5.65 g | C1(CC1)C1=C(C=C(C(=C1)CO)OCC)C1=CC=C(C=C1)F | C18H19FO2
